US06689922B1
6-{4-[2-(3,4-bis-Hydroxymethylphenyl)vinyl]-phenyl}-2-methylhexan-2-ol
In a manner similar to Example 25(d), by reacting 10 drops of concentrated sulphuric acid with 265 mg (0.4 mmol) of 2-[5-(4-{2-[3,4-bis(tert-butyldimethylsilanyloxymethyl)phenyl]vinyl}phenyl)-1,1-dimethylpentyloxy]tetrahydropyran in 5 ml of THF and 5 ml of water, white crystals (m=73 mg; Y=51%) are obtained. m.p.=102-4° C.

reactant | 2-[5-(4-{2-[3,4-bis(tert-butyldimethylsilanyloxymethyl)phenyl]vinyl}phenyl)-1,1-dimethylpentyloxy]tetrahydropyran | 0.4 mmol, 265 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1CO[Si](C)(C)C(C)(C)C)C=CC1=CC=C(C=C1)CCCCC(OC1OCCCC1)(C)C | C40H66O4Si2
catalyst | sulphuric acid | 10 drops | S(O)(O)(=O)=O | H2O4S
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | 6-{4-[2-(3,4-bis-Hydroxymethylphenyl)vinyl]-phenyl}-2-methylhexan-2-ol | OCC=1C=C(C=CC1CO)C=CC1=CC=C(C=C1)CCCCC(C)(O)C | C23H30O3
